Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:2]#[C:3][C:4]([H:5])([H:6])[C@@:7]([H:8])([O:9][H:10])[C:11]([H:12])([H:13])[H:14].[H:1]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C@@:7]([H:8])([O:9][H:10])[C:11]([H:12])([H:13])[H:14],-5.963665476259999
[H:1][C:2][C:3]#[C:5][C:6]([H:7])([H:8])[H:9].[H:4]>>[H:1][C:2]=[C:3]([H:4])[C:5][C:6]([H:7])([H:8])[H:9],-1.79686901407
[H:18].[H:1][C:2]([H:3])([H:4])[O:5][C@:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[C:15]([H:16])[H:17]>>[H:1][C:2]([H:3])([H:4])[O:5][C@@:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18],-4.56181372163
[H:1][O:2][C:3]([H:4])([H:5])[C:6]#[C:7][C:8]([H:9])([H:10])[H:11]>>[C:3]([H:4])([H:5])[C:6]#[C:7][C:8]([H:9])([H:10])[H:11].[H:1][O:2],4.689950205290001
[C:8]([H:9])([H:10])[H:11].[O:1]=[C:2][O:3][C:4]=[C:5]([H:6])[H:7]>>[O:1]=[C:2][O:3][C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11],-2.3088720591900005
[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C@@:8]1([C:9]([H:10])([H:11])[H:12])[C:13][C:14]1([H:15])[H:16]>>[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([C:9]([H:10])([H:11])[H:12])=[C:13]=[C:14]([H:15])[H:16],-2.89789253
[O:1][O:2]/[C:3]([C:4]([H:5])[H:6])=[C:7](/[H:8])[C:9]([H:10])([H:11])[H:12]>>[C:7]([H:8])[C:9]([H:10])([H:11])[H:12].[O:1][O:2][C:3][C:4]([H:5])[H:6],4.69856801976
[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7][C:8]([H:9])([H:10])[O:11][H:12]>>[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]=[C:8]([H:9])[H:10].[O:11][H:12],2.91683176497
[H:1][O:2][C@:3]([H:4])([O:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[C:13]([H:14])([H:15])[H:16].[H:1][O:2][C@@:3]([H:4])([O:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])[H:12],4.15102951255
[H:8].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]#[C:9][O:10][H:11]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9]/[O:10][H:11],-2.29471156201
[C:1]#[C:2][C:3]([H:4])[O:6][C:7]([H:8])=[C:9]([H:10])[H:11].[H:5]>>[C:1]#[C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])=[C:9]([H:10])[H:11],-1.9330269302400005
[O:1]=[C:2]([H:3])/[C:4]([H:5])=[C:6](\[O:7][H:8])[C:9]([H:10])([H:11])[H:12]>>[C:2]([H:3])/[C:4]([H:5])=[C:6](\[O:7][H:8])[C:9]([H:10])([H:11])[H:12].[O:1],7.768599668099999
[C:1].[C:2][O:3][C:4]#[C:5][C:6]([H:7])([H:8])[H:9]>>[C:1]#[C:2][O:3][C:4]#[C:5][C:6]([H:7])([H:8])[H:9],-5.78910468798
[O:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]#[C:10][H:11]>>[C:6]([H:7])([H:8])[C:9]#[C:10][H:11].[O:1][O:2][C:3]([H:4])[H:5],2.59443610008
[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[C:16]([H:17])([H:18])[H:19]>>[H:1]/[C:2]([C:3]([H:4])([H:5])[H:6])=[C:7](/[H:8])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[C:16]([H:17])([H:18])[H:19].[H:9],1.95029871495
[C:8]([H:9])([H:10])[O:11][H:12].[H:1][C:2][C:3]([H:4])([H:5])[C:6]=[O:7]>>[H:1][C:2][C:3]([H:4])([H:5])[C:6][O:7][C:8]([H:9])([H:10])[O:11][H:12],-0.58954665547
[C:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[C:13]([H:14])([H:15])[H:16].[C:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[H:12],4.0353696797900005
[H:1][C:2]#[C:3][C:5]([H:6])([H:7])[O:8][O:9][H:10].[H:4]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[O:8][O:9][H:10],-1.92455984379
[C:1]#[C:2][C:3]([H:4])([H:5])[C:6][C:7]([H:8])=[C:9][H:10]>>[C:1]#[C:2][C:3]([H:4])([H:5])[C:6][C:7]#[C:9][H:10].[H:8],1.4121560020299997
[H:6].[O:1][C@@:2]([H:3])([C:4]#[C:5])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[O:1][C@@:2]([H:3])([C:4]#[C:5][H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-5.95868986431
[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C@@:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[C:16]([H:17])([H:18])[H:19]>>[C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[H:15].[H:1]/[C:2]([C:3]([H:4])([H:5])[H:6])=[C:13](/[H:14])[C:16]([H:17])([H:18])[H:19],1.31105057847
[C:3]#[C:4][H:5].[O:1]=[C:2]=[C:6]([H:7])[O:8][H:9]>>[O:1]=[C:2]([C:3]#[C:4][H:5])[C:6]([H:7])[O:8][H:9],-4.04691917944
[H:1][O:2][C:3][O:4][C:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:10].[H:1][O:2][C:3][O:4][C@@:5]([H:6])([C:7]([H:8])[H:9])[C:11]([H:12])([H:13])[H:14],4.63472418715
[H:5].[O:1]=[C:2]([H:3])/[C:4](=[C:6](\[H:7])[O:8][H:9])[C:10]([H:11])([H:12])[H:13]>>[O:1]=[C:2]([H:3])[C@:4]([H:5])([C:6]([H:7])[O:8][H:9])[C:10]([H:11])([H:12])[H:13],-1.42898876361
[C:2]([C:3]([H:4])([H:5])[H:6])[C@:7]([H:8])([C:9]([H:10])=[C:11]([H:12])[H:13])[C:14]([H:15])([H:16])[H:17].[H:1]>>[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C@:7]([H:8])([C:9]([H:10])=[C:11]([H:12])[H:13])[C:14]([H:15])([H:16])[H:17],-4.86679993375
[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]#[C:8][C:10]([H:11])([H:12])[H:13].[H:9]>>[H:1][O:2][C:3]([H:4])[C:5]([H:6])=[C:7]=[C:8]([H:9])[C:10]([H:11])([H:12])[H:13],-2.2058266689400003
[H:1][C:2]#[C:3][C@:4]([H:5])([C:6][O:7][H:8])[C:9]([H:10])[H:11]>>[H:1][C:2]#[C:3][C@:4]1([H:5])[C:6]([O:7][H:8])[C:9]1([H:10])[H:11],-1.70399469607
